US06531491B1
To a solution of carbonic acid 4-nitro-phenyl ester 2-trimethylsilanyl-ethyl ester (566 mg, 2 mmol) in DMF (4 ml) at 23° C. under an atmosphere of argon was added DMAP (12 mg, 0.1 mmol), DIEA (0.35 ml, 2 mmol) and 4-fluoro-6-methyl-benzene-1,3-diamine. The resulting solution was heated to 50° C. for 48 h. The reaction mixture was quenched with saturated NaCHO3 (aq), extracted with EtOAc (3×20 ml). The EtOAc was removed in-vacuo, and the residue was re-dissolved in Et2O then washed with 3 N NaOH (aq), water, brine, dried with Na2SO4, filtered and concentrated. Purification by silica gel chromatography (2:8-7:3 ethyl acetate-hexane) gave (5-amino-4-fluoro-2-methyl-phenyl)-carbamic acid 2-trimethylsilanyl-ethyl ester (160 mg, 28%). MS (ESI+) [M+H]/z Calc'd 634, found 634.

reactant | carbonic acid 4-nitro-phenyl ester 2-trimethylsilanyl-ethyl ester | 2 mmol, 566 mg | C[Si](CCOC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(C)C | C12H17NO5Si
reactant | DIEA | 2 mmol, 0.35 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-fluoro-6-methyl-benzene-1,3-diamine | FC1=C(C=C(C(=C1)C)N)N | C7H9FN2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.1 mmol, 12 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (5-amino-4-fluoro-2-methyl-phenyl)-carbamic acid 2-trimethylsilanyl-ethyl ester | 160 mg, 28% | C[Si](CCOC(NC1=C(C=C(C(=C1)N)F)C)=O)(C)C | C13H21FN2O2Si
